US08133907B2
N-tert-Butyl-2-[(E)-(R)-3-dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinamide
Using general procedure 5 with 2-[(E)-(R)-3-dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid (0.64 g, 1.4 mmol) and tert-butylamine (0.73 mL, 1.5 mmol) gives the title compound.

reactant | 2-[(E)-(R)-3-dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid | 1.4 mmol, 0.64 g | C(C1=CC=CC=C1)N([C@@H](/C=C/C1=C(C(=O)O)C=CC=N1)CC1=C(C=CC=C1)F)CC1=CC=CC=C1 | C30H27FN2O2
reactant | tert-butylamine | 1.5 mmol, 0.73 mL | C(C)(C)(C)N | C4H11N
product | N-tert-Butyl-2-[(E)-(R)-3-dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinamide | C(C)(C)(C)NC(C1=C(N=CC=C1)\C=C\[C@@H](CC1=C(C=CC=C1)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C34H36FN3O
